US07910735B2
Production of N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-fluoromethylpyrazine-2-carboxamide (Compound No. 1-39)
Methyl 3-fluoromethylpyrazine-2-carboxylate (390 mg, 2.29 mmol) and 3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (750 mg, 2.29 mmol) were stirred, followed by adding a 28% by weight methanol solution of sodium methoxide (4.4 g, 22.9 mmol), heating at 60° C. for 3 hours while stirring, pouring into a diluted HCl solution, extracting with ethyl acetate and washing with water. The reaction solution was dried over magnesium sulfate, and concentrated under reduced pressure, and then the residue was purified by using silica gel chromatography (hexane:ethyl acetate=3:1) to obtain 0.71 g of the desired compound.

reactant | Methyl 3-fluoromethylpyrazine-2-carboxylate | 2.29 mmol, 390 mg | FCC=1C(=NC=CN1)C(=O)OC | C7H7FN2O2
reactant | 3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 2.29 mmol, 750 mg | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)(C(F)(F)F)OC | C14H17F6NO
reactant | sodium methoxide | 22.9 mmol, 4.4 g | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-fluoromethylpyrazine-2-carboxamide | 0.71 g, Yield: 67% | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)(C(F)(F)F)OC)NC(=O)C1=NC=CN=C1CF | C20H20F7N3O2
